US08008293B2
Synthesis of (R)-5-((R)-1-benzyloxyethyl)morpholin-3-one
A 50% sodium hydroxide solution (400 mL) and tetrabutylammoniumbisulfate (24.1 g) were added to a toluene (400 mL) solution of ((1R,2R)-2-benzyloxy-1-hydroxymethylpropyl) carbamic acid t-butyl ester (83.1 g, CAS#133565-43-2). Under ice-cooling, t-butyl bromoacetic acid ester (125 mL) was added dropwise, and stirring was continued for 3 hours at the same temperature. Water (500 mL) and toluene (500 mL) were added, and the organic layer was partitioned, and the resultant was washed with brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under a vacuum, and a crude material (122.5 g) containing ((2R,3R)-3-benzyloxy-2-t-butoxycarbonylaminobutoxy)acetic acid t-butyl ester was obtained. Dichloromethane (315 mL) and trifluoroacetic acid (315 mL) were added to the obtained crude material (118 q), and stirring was continued for 2 hours at room temperature. The solvent was removed under a vacuum, and methanol (350 mL) was added. Under ice-cooling, thionyl chloride (96.9 mL) was added dropwise, and the resultant was stirred at room temperature for 1 hour. The solvent was removed under a vacuum, and methanol (315 mL) was added, and under ice-cooling, sodium methoxide (165 mL, 28% methanol solution) was added dropwise. The solvent was removed under a vacuum, and ethyl acetate and water were added, and the organic layer was partitioned. The organic layer was washed with 1 N hydrochloric acid and brine in sequence, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed under a vacuum, and the resultant was purified by silica gel column chromatography (ethyl acetate), and the title compound (61.57 g) was obtained. The physical property values are as follows.

reactant | sodium hydroxide | 400 mL | [OH-].[Na+]
reactant | ((1R,2R)-2-benzyloxy-1-hydroxymethylpropyl) carbamic acid t-butyl ester | 83.1 g | C(C)(C)(C)OC(N[C@@H]([C@@H](C)OCC1=CC=CC=C1)CO)=O | C16H25NO4
reactant | trifluoroacetic acid | 315 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | tetrabutylammoniumbisulfate | 24.1 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Dichloromethane | 315 mL | ClCCl | CH2Cl2
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 500 mL | O | H2O
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-5-((R)-1-benzyloxyethyl)morpholin-3-one | 61.57 g | C(C1=CC=CC=C1)O[C@H](C)[C@H]1COCC(N1)=O | C13H17NO3
